US08071807B2
{4-Difluoromethoxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester was reduced to {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-difluoromethoxy-phenyl}-acetic acid methyl ester as described in Example 21, Step 9, which was treated with pivaloyl chloride as described in Example 21, Step 10 to provide {4-difluoromethoxy-3-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester. Hydrolysis of the ester to the acid was carried out as described in Example 21, Step 11.

reactant | {4-Difluoromethoxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H16F5NO6S
reactant | {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-difluoromethoxy-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC(F)F)OC1=C(C=C(C=C1)N)CSCC(F)(F)F)=O | C19H18F5NO4S
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | {4-difluoromethoxy-3-[4-(2,2-dimethyl-propionylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC(F)F)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSCC(F)(F)F)=O | C24H26F5NO5S
